US04028344
Preparation of N-[1-(t-Butylazo)cyclohexyl]-N'-isobutylthiourea
To 9.1 grams (.0394 moles) of 1-t-butylazo-1-isothiocyanatocyclohexane stirred with a magnetic stirrer in a 50 ml erlenmeyer flask was added 2.88 grams (.0394 moles) of isobutylamine at room temperature. The reaction mixture became viscous so pentane was added and the reaction was stirred an additional 4 hours and the pentane stripped off to leave a yellow solid weighing 11.6 grams (97% crude yield). The product melted at 90°-93° C. and the infrared spectrum of the product had a strong broad band at 1520-1550 cm-1 and a NH band at 3270 cm-1. There was only a trace of the isothiocyanate band at 2040 cm-1 which was present in the starting material.

reactant | 1-t-butylazo-1-isothiocyanatocyclohexane | .0394 moles, 9.1 grams | C(C)(C)(C)N=NC1(CCCCC1)N=C=S | C11H19N3S
reactant | isobutylamine | .0394 moles, 2.88 grams | C(C(C)C)N | C4H11N
reactant | isothiocyanate | [N-]=C=S
solvent | pentane | CCCCC | C5H12
product | N-[1-(t-Butylazo)cyclohexyl]-N'-isobutylthiourea | C(C)(C)(C)N=NC1(CCCCC1)NC(=S)NCC(C)C | C15H30N4S
